US07304081B2
Step 6. (cis)-2-[4-(hydroxymethyl)pyrrolidin-3-yl]phenol
A mixture of 2-[1-benzyl-4-(hydroxymethyl)pyrrolidin-3-yl]phenol (101.4 mg, 0.0003580 mol) and palladium (10% on carbon, 75 mg) in methanol (5.0 mL, 0.12 mol) was stirred under hydrogen (balloon) overnight. The mixture was filtered and the filtrate was concentrated. The residue was used in next step without further purification.

reactant | 2-[1-benzyl-4-(hydroxymethyl)pyrrolidin-3-yl]phenol | 0.0003580 mol, 101.4 mg | C(C1=CC=CC=C1)N1CC(C(C1)CO)C1=C(C=CC=C1)O | C18H21NO2
reactant | methanol | 0.12 mol, 5.0 mL | CO | CH4O
catalyst | palladium | 75 mg | [Pd] | Pd
product | (cis)-2-[4-(hydroxymethyl)pyrrolidin-3-yl]phenol | OC[C@@H]1[C@@H](CNC1)C1=C(C=CC=C1)O | C11H15NO2
